US07696240B2
Using general procedure A (Exp. 1.3.), 1,8-dimethyl-naphthalene was reacted with N-bromosuccinimide to give 1-bromomethyl-8-methyl-naphthalene as white solid. MS: 234.1 ([M]+). Using general procedure B, ethyl 2-indole carboxylate was coupled with 1-bromomethyl-8-methyl-naphthalene to give 1-(8-methyl-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give the title compound as a white solid. MS: 314.4 ([M−H]−).

reactant | 1,8-dimethyl-naphthalene | CC1=CC=CC2=CC=CC(=C12)C | C12H12
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 1-bromomethyl-8-methyl-naphthalene | BrCC1=CC=CC2=CC=CC(=C12)C | C12H11Br
